US08877782B2
((R)-2-Hydroxymethyl-pyrrolidin-1-yl)-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone
As described for example 223, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (120 mg, 0.37 mmol) was converted, using D-prolinol instead of L-prolinol, to the title compound (139 mg, 96%) which was obtained as a colourless oil. MS: m/e=394.1 [M+H]′.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.37 mmol, 120 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C18H16N2O4
reactant | D-prolinol | N1[C@@H](CO)CCC1 | C5H11NO
product | ((R)-2-Hydroxymethyl-pyrrolidin-1-yl)-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone | 139 mg, 96% | OC[C@@H]1N(CCC1)C(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C22H23N3O4
